US05521311
Following the same procedure as that of Example 23 except for the use of N-(5-aminoacetylamino-4-nitro-2-phenoxyphenyl)methanesulfonamide obtained by the procedure of Example 22 andacetonitrile in place of N-[5-(n-butylaminoacetylamino)-4-nitro-2-phenoxyphenyl]methanesulfonamide and acetone as a reaction solvent used in Example 23, N-(5-aminoacetylamino-4-nitro-2-phenoxyphenyl)methanesulfonamide hydrochloride was obtained.

reactant | N-(5-aminoacetylamino-4-nitro-2-phenoxyphenyl)methanesulfonamide | NCC(=O)NC=1C(=CC(=C(C1)NS(=O)(=O)C)OC1=CC=CC=C1)[N+](=O)[O-] | C15H16N4O6S
solvent | acetone | CC(=O)C | C3H6O
product | N-[5-(n-butylaminoacetylamino)-4-nitro-2-phenoxyphenyl]methanesulfonamide | C(CCC)NCC(=O)NC=1C(=CC(=C(C1)NS(=O)(=O)C)OC1=CC=CC=C1)[N+](=O)[O-] | C19H24N4O6S
